US04355037
4-(2,4-Difluorobenzoyl)-N-formylpiperidine
To a slurry of 39 g of aluminum chloride and 120 ml of 1,3-difluorobenzene was added dropwise, with stirring, 30 g of N-formylisonipecotic acid chloride. The reaction mixture was stirred under reflux for two hrs and poured into 1 l of ice-water. The mixture was extracted with 4 350-ml portions of chloroform. The combined organic extracts were washed with 2 300-ml portions of water, dried, filtered and evaporated. Trituration with petroleum ether and washing with ether at 0°, yielded 14 g (32.3%) of product, mp, 75°.

reactant | aluminum chloride | 39 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-formylisonipecotic acid chloride | 30 g | C(=O)N1CCC(C(=O)Cl)CC1 | C7H10ClNO2
reactant | 1,3-difluorobenzene | 120 ml | FC1=CC(=CC=C1)F | C6H4F2
product | 4-(2,4-Difluorobenzoyl)-N-formylpiperidine | 14 g, 32.3% | FC1=C(C(=O)C2CCN(CC2)C=O)C=CC(=C1)F | C13H13F2NO2
